US07713994B2
A solution of 3-benzyloxy-4-methoxybenzaldehyde (33 mmol maximum) in tetrahydrofuran (150 mL) is cooled to −78° C. Methyllithium (Aldrich, 1.6 M solution in diethyl ether, 31 mL, 49 mmol) is added dropwise via syringe. Following completion of the addition, the cooling bath is removed and the reaction mixture is allowed to warm to room temperature. After 90 minutes at that temperature, the mixture is cooled to 0° C. and quenched by the addition of saturated aqueous sodium hydrogen carbonate. The quenched reaction mixture, after warming to room temperature, is acidified with 1 M hydrochloric acid solution to pH 1 and extracted thrice with diethyl ether. The combined extracts were washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to give 1-(3-benzyloxy-4-methoxy-phenyl)-ethanol.

reactant | 3-benzyloxy-4-methoxybenzaldehyde | 33 mmol | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1OC | C15H14O3
reactant | Methyllithium | 49 mmol, 1.6 M, 31 mL | C[Li]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 1-(3-benzyloxy-4-methoxy-phenyl)-ethanol | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C(C)O | C16H18O3
